US04182758
A solution of dibutyl 3-(N-benzyloxy-N-ethoxycarbonylamino)propylphosphonate (6.72 g.) in acetic acid (70 ml.) and conc. hydrochloric acid (70 ml.) was refluxed with stirring for 48 hours. The reaction mixture was concentrated under reduced pressure to give an oily residue, to which there was added water (30 ml.). The solution was washed with ethyl acetate (20 ml.), treated with activated charcoal and then concentrated under reduced pressure to give an oily residue (2.60 g.). The residue was dissolved in water (5 ml.). To the solution was added pyridine (1.08 g.) and ethanol (2 ml.). The mixture was allowed to stand overnight at ambient temperature to give crystalline 3-(N-hydroxyamino)propylphosphonic acid (1.12 g.).

reactant | dibutyl 3-(N-benzyloxy-N-ethoxycarbonylamino)propylphosphonate | 6.72 g | C(C1=CC=CC=C1)ON(C(=O)OCC)CCCP(OCCCC)(OCCCC)=O | C21H36NO6P
reactant | pyridine | 1.08 g | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 70 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 3-(N-hydroxyamino)propylphosphonic acid | 1.12 g | ONCCCP(O)(O)=O | C3H10NO4P
